Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
benign prostatic hypertrophy and urinary retention
 
Major Surgical or Invasive Procedure:
ROBOTIC ASSISTED LAPAROSCOPIC PROSTATECTOMY

 
History of Present Illness:
___ ___ male with benign prostatic hypertrophy and urinary 
retention not responsive to pharmaceuticals. 
 
Past Medical History:
PMH:
Seasonal allergies
COPD worse with humid weather

PSH:
EGD/colonoscopy

 
Social History:
___
Family History:
No family history of GU malignancy
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended, appropriately tender along incision 
sites
Incisions C/D/I
Foley in place, secured to medial thigh. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 07:03AM BLOOD WBC-7.2 RBC-3.73* Hgb-11.3* Hct-34.2* 
MCV-92 MCH-30.3 MCHC-33.0 RDW-13.0 RDWSD-42.5 Plt ___

___ 07:03AM BLOOD Glucose-97 UreaN-12 Creat-1.0 Na-143 
K-4.2 Cl-103 HCO3-26 AnGap-14
 
Brief Hospital Course:
Mr. ___ was admitted to the Urology Service after undergoing 
robotic assisted laparoscopic SIMPLE prostatectomy. No 
concerning intra-operative events occurred; please see dictated 
operative note for full details.  The patient received 
___ antibiotic prophylaxis.  At the end of the 
procedure the patient was extubated and transported to the PACU 
for further recovery before being transferred to the floor.  He 
was transferred from the PACU in stable condition. On POD0, pain 
was well controlled on PCA, hydrated with intravenous fluids for 
urine output >30cc/hour, provided with pneumoboots and incentive 
spirometry for prophylaxis, and he ambulated once. On POD1, the 
patient was restarted on home medications, basic metabolic panel 
and complete blood count were checked, pain control was 
transitioned from PCA to oral analgesics, diet was advanced to a 
clears/toast and crackers diet for breakfast and lunch.  Diet 
was advanced to regular after lunch and with further ambulation, 
the drain was removed.  Foley catheter care and leg bag teaching 
was provided by nursing. The remainder of the hospital course 
was unremarkable. The patient was discharged in stable 
condition, eating well, ambulating independently, and with pain 
control on oral analgesics. On exam, incision was clean, dry, 
and intact, with no evidence of hematoma collection or 
infection. The patient was given explicit instructions to 
follow-up in one week for post-operative evaluation and trial of 
voiding.

 
Medications on Admission:
All: NKDA

Medications:
Tamsulosin 0.4 mg p.o. daily
Symbicort
Finasteride
Loratadine
Levitra as needed
Pro-air HFA
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Bacitracin Ointment 1 Appl TP TID  
3.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 2 Doses 
Take 12hrs apart on date of void trial/foley removal 
RX *ciprofloxacin HCl 500 mg ONE tablet(s) by mouth twice a day 
Disp #*2 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg ONE capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
5.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg ONE tablet(s) by mouth Q8hrs Disp #*30 
Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ONE tab by mouth Q4hrs Disp #*30 Tablet 
Refills:*0 
7.  Senna 8.6 mg PO BID Duration: 6 Doses  
8.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing  
9.  amLODIPine 5 mg PO DAILY  
10.  budesonide-formoterol 160-4.5 mcg/actuation inhalation QPM  

11.PAIN PILL LOG
***please keep track of pain pills used on the provided PAIN 
PILL LOG (ORANGE SHEET). Return the log sheet at your follow up 
appointment AND remember to also bring a pad/diaper, and the 
narcotic prescription bottle.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
benign prostatic hypertrophy and urinary retention
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
***please keep track of pain pills used on the provided PAIN 
PILL LOG (ORANGE SHEET). Return the log sheet at your follow up 
appointment AND remember to also bring a pad/diaper, and the 
narcotic prescription bottle.

-Please also reference the additional handout provided by your 
urologist with instructions and information about your surgery 
and post-operative plan of care.

-Please also reference the instructions provided by nursing on 
Foley catheter care, hygiene and waste elimination. 

-ALWAYS follow-up with your referring provider ___ your PCP 
to discuss and review your post-operative course and 
medications.  Any NEW medications should also be reviewed with 
your pharmacist.

-Resume your pre-admission medications except as noted AND you 
note that you NO longer need to take medications that shrink 
your prostate (Hytrin, Avodart, Flomax, etc.)

-You may take ibuprofen and the prescribed narcotic together for 
pain control. FIRST, use Tylenol and Ibuprofen.  Add the 
prescribed narcotic (examples: Oxycodone, Dilaudid, 
Hydromorphone) for break through pain that is >4 on the pain 
scale.

-The maximum dose of Tylenol (ACETAMINOPHEN) is 3- 4 grams (from 
ALL sources) PER DAY.

-Ibuprofen should always be taken with food. If you develop 
stomach pain or note black stool, stop the Ibuprofen.  Ibuprofen 
works best when taken “around the clock.”

-For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Do NOT drive while Foley catheter is in place.

-AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up. Generally about 
FOUR weeks. Light household chores are generally “ok”.  Do not 
vacuum. 

-No DRIVING for THREE WEEKS or until you are cleared by your 
Urologist

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener ___ a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-You may shower 2 days after surgery, but do not tub bathe, 
swim, soak, or scrub incision for 2 weeks

-If you had a drain removed from your abdomen, bandage strips 
called “steristrips” have been applied to close the wound. Allow 
these bandage strips to fall off on their own ___ days).  
PLEASE REMOVE any remaining dressings w/ gauze within 2 days of 
discharge.  You may get the steristrips wet.

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive bleeding from incision, chest pain or 
shortness of breath.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up in 1 week for wound check and Foley removal. DO NOT 
allow anyone that is outside of the urology team remove your 
Foley for any reason.

-Wear Large Foley bag for majority of time; the leg bag is only 
for short-term when leaving the house, etc.

-Take prescribed antibiotic for Foley catheter removal as 
directed

-resume regular home diet and remember to drink plenty of fluids 
to keep hydrated and to minimize risk of constipation. For the 
first few days at home, you should eat SMALL PORTIONS.  Avoid 
high fat, bulky or fried foods. of breath.
 
Followup Instructions:
___